*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/CH(-55to125[deg])/6.80e-04[uF]/100[V]
* Murata P/N :GCM2162C2A681JA01
* Property : C = 6.80e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-9[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM2162C2A681JA01 Port1 Port2
C01 Port1 N01 6.80e-10
R01 Port1 N01 1.00e+10
L02 N01 N02 4.36e-12
R03 N02 N03 5.00e-02
L04 N03 N04 6.97e-11
R04 N03 N04 8.55e-01
C05 N04 N05 3.29e-09
L05 N04 N05 1.32e-11
R05 N04 N05 3.27e-01
C06 N05 N06 7.20e-10
L06 N05 N06 2.00e-11
R06 N05 N06 5.82e-01
C07 N06 N07 1.64e-11
L07 N06 N07 2.39e-11
R07 N06 N07 6.05e+00
C08 N07 Port2 7.57e-13
L08 N07 Port2 3.75e-10
R08 N07 Port2 1.00e+05
.ENDS GCM2162C2A681JA01
